### PR TITLE
[Merged by Bors] - feat: definition of `<` on `α ×ₗ β` in partial orders

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Prod/Lex.lean [hunk 1]
```diff
@@ -44,16 +45,24 @@ instance instLE (α β : Type*) [LT α] [LE β] : LE (α ×ₗ β) where le := P
 
 instance instLT (α β : Type*) [LT α] [LT β] : LT (α ×ₗ β) where lt := Prod.Lex (· < ·) (· < ·)
 
-theorem le_iff [LT α] [LE β] (a b : α × β) :
-    toLex a ≤ toLex b ↔ a.1 < b.1 ∨ a.1 = b.1 ∧ a.2 ≤ b.2 :=
+theorem toLex_le_toLex [LT α] [LE β] {x y :  α × β} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Prod/Lex.lean:48]:
```suggestion
theorem toLex_le_toLex [LT α] [LE β] {x y : α × β} :
```
And three more times below

File: Mathlib/Data/Prod/Lex.lean [hunk 2]
```diff
@@ -97,19 +106,37 @@ instance preorder (α β : Type*) [Preorder α] [Preorder β] : Preorder (α ×
 
 theorem monotone_fst [Preorder α] [LE β] (t c : α ×ₗ β) (h : t ≤ c) :
     (ofLex t).1 ≤ (ofLex c).1 := by
-  cases (Prod.Lex.le_iff t c).mp h with
+  cases (toLex_le_toLex).mp h with
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Prod/Lex.lean:109]:
```suggestion
  cases toLex_le_toLex.mp h with
```

File: Mathlib/Order/RelClasses.lean [hunk 3]
```diff
@@ -446,7 +446,8 @@ instance (priority := 100) [IsEmpty α] (r : α → α → Prop) : IsWellOrder 
   trans := isEmptyElim
   wf := wellFounded_of_isEmpty r
 
-instance [IsWellFounded α r] [IsWellFounded β s] : IsWellFounded (α × β) (Prod.Lex r s) :=
+instance Prod.Lex.instIsWellFounded [IsWellFounded α r] [IsWellFounded β s] :
```
Comment (b-mehta) [inline Mathlib/Order/RelClasses.lean:449]: What's the justification for this change?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Order/RelClasses.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/RelClasses.lean:449]: I was going to add this instance myself, but Violeta beat me to it. However she didn't name it, so it currently is incorrectly called `Prod.Lex.instWellFoundedLTLex`

File: Mathlib/Data/Prod/Lex.lean [hunk 4]
```diff
@@ -97,19 +106,37 @@ instance preorder (α β : Type*) [Preorder α] [Preorder β] : Preorder (α ×
...
 
-theorem toLex_mono : Monotone (toLex : α × β → α ×ₗ β) := by
-  rintro ⟨a₁, b₁⟩ ⟨a₂, b₂⟩ ⟨ha, hb⟩
-  obtain rfl | ha : a₁ = a₂ ∨ _ := ha.eq_or_lt
-  · exact right _ hb
-  · exact left _ _ ha
+/-- Variant of `Prod.Lex.toLex_le_toLex` for partial orders. -/
+lemma toLex_le_toLex' : toLex x ≤ toLex y ↔ x.1 ≤ y.1 ∧ (x.1 = y.1 → x.2 ≤ y.2) := by
+  simp only [toLex_le_toLex, lt_iff_le_not_le, le_antisymm_iff]
+  tauto
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Prod/Lex.lean:120]: Nope, leaves
```
α : Type u_1
β : Type u_2
inst : PartialOrder α
inst_1 : Preorder β
fst : α
snd : β
fst_1 : α
snd_1 : β
left : fst ≤ fst_1
right : fst_1 ≤ fst → snd ≤ snd_1
⊢ ¬fst_1 ≤ fst ∨ fst_1 ≤ fst ∧ snd ≤ snd_1
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
